US05173493
To a mixture of 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (10.9 g), ammonium formate (17.2 g), ethanol (130 ml), and tetrahydrofuran (110 ml) was added a suspension of 10% palladium on carbon (3.3 g) in water (30 ml). The mixture was heated at 60° C. for 2 hours and then cooled. After filtration of the catalyst, the filtrate was evaporated in vacuo. The residue was dissolved in 10% methanol-chloroform. The organic layer was washed successively with aqueous sodium bicarbonate solution, water, and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The crystalline residue was recrystallized from chloroform-hexane to give 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (9.85 g).

reactant | 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 10.9 g | CC1=C(N=CN1)C=C1CCC=2N(C3=CC=CC=C3C2)C1=O | C17H15N3O
reactant | ammonium formate | 17.2 g | C(=O)[O-].[NH4+]
reactant | ethanol | 130 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 3.3 g | [Pd] | Pd
solvent | water | 30 ml | O | H2O
product | 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 9.85 g | CC1=C(N=CN1)CC1CCC=2N(C3=CC=CC=C3C2)C1=O | C17H17N3O
